US08183251B2
d) N-Methyl-N-[(4-{[2-(trifluoromethyl)pyrimidin-5-yl]oxy}phenyl)methyl]amine>
4-{[2-(Trifluoromethyl)pyrimidin-5-yl]oxy}benzaldehyde was stirred with 33% methylamine in 95% ethanol (30 mL) at reflux for 1 hour and then concentrated. The residue was re-dissolved in 95% ethanol, 10% palladium/carbon was added, and the mixture was hydrogenated at room temperature under atmospheric pressure for 30 minutes. The reaction was performed on a 5.0 mmol scale with a yield of 95%.

reactant | 4-{[2-(Trifluoromethyl)pyrimidin-5-yl]oxy}benzaldehyde | FC(C1=NC=C(C=N1)OC1=CC=C(C=O)C=C1)(F)F | C12H7F3N2O2
reactant | methylamine | CN | CH5N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | N-Methyl-N-[(4-{[2-(trifluoromethyl)pyrimidin-5-yl]oxy}phenyl)methyl]amine | yield of 95% | CNCC1=CC=C(C=C1)OC=1C=NC(=NC1)C(F)(F)F | C13H12F3N3O
